data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_104824_0,[C:1]1([N:4]([H:9])[H:10])([H:11])[C:3]([N:2]([O:5][H:7])[H:8])([H:12])[O:6]1>>[C:1]([C:3]([N:2]([O:5][H:7])[H:8])=[O:6])([N:4]([H:9])[H:10])([H:11])[H:12],28.168474999970243
MR_44004_1,[C:1](/[N:7]=[C:5]([C:6](=[C:3](\[C:2]([H:15])([H:16])[H:17])[N:4]([H:8])[H:9])\[H:11])/[H:10])([H:12])([H:13])[H:14]>>[C:1]([N:7]1[C:3]([C:2]([H:15])([H:16])[H:17])([N:4]([H:8])[H:9])[C:6]([H:11])=[C:5]1[H:10])([H:12])([H:13])[H:14],51.41609499998722
MR_673446_0,[N:1]([N:2]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])([N:3]([N:7]([H:15])[H:16])[N:8]([H:17])[H:18])[N:4]([H:9])[H:10]>>[N:1]([N:2]([N:3]([N:7]([H:15])[H:16])[N:8]([H:17])[H:18])[N:5]([H:11])[H:12])([N:4]([H:9])[H:10])[N:6]([H:13])[H:14],31.56450500002805
MR_293125_1,[C:1](/[N:8]=[C:5](\[N:3]([O:7][C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])[H:10])[N:6]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:8]([C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])[C:5]1([N:6]([H:11])[H:12])[N:3]([H:10])[O:7]1)([H:13])([H:14])[H:15],44.36927000001546
MR_266595_1,[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[N:8]/[C:3]([N:5]([H:9])[H:10])=[C:7](\[N:6]([H:11])[H:12])[H:13])([H:14])([H:15])[H:19]>>[C:1]([C:4]1([C:2]([H:16])([H:17])[H:18])[C:7]([N:6]([H:11])[H:12])([H:13])[C:3]([N:5]([H:9])[H:10])=[N:8]1)([H:14])([H:15])[H:19],39.80483500001839
MR_703380_1,[C:1](/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:4](\[C:2]([H:14])([H:15])[H:16])[N:6]([H:10])[H:11])([O:7][O:8][H:9])([H:12])[H:13]>>[C:1](=[C:5]([C:3]([H:17])([H:18])[H:19])[C:4]([C:2]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])[O:7][O:8][H:9])([H:12])[H:13],38.45696500003285
MR_127943_0,[C:1]([C:4]([N:6]=[C:5]([C:2]([H:11])([H:12])[H:15])[C:3]([H:13])([H:14])[H:16])=[O:7])([H:8])([H:9])[H:10]>>[C:1]([C:4]1=[N:6][C:5]([C:2]([H:11])([H:12])[H:15])([C:3]([H:13])([H:14])[H:16])[O:7]1)([H:8])([H:9])[H:10],34.24204750000939
MR_500491_1,[C@:1]([O:6][C:2]([H:15])([H:16])[H:17])([O:7][H:9])([N:8]=[C:3]([N:4]([H:12])[H:13])[N:5]([H:11])[H:14])[H:10]>>[C:1]([O:7][H:9])([N:8][C:3]([N:4]([H:12])[H:13])([N:5]([H:11])[H:14])[O:6][C:2]([H:15])([H:16])[H:17])[H:10],42.35813250002806
MR_418419_1,[C:1]1([N:3]([H:11])[H:12])([O:8][H:10])[C:2]([N:4]([H:14])[H:15])([N:5]([H:13])[H:16])[C:6]1([N:9]=[C:7]([H:18])[H:19])[H:17]>>[C:1]([C:2]([N:4]([H:14])[H:15])([N:5]([H:13])[H:16])/[C:6](=[N:9]/[C:7]([H:10])([H:18])[H:19])[H:17])([N:3]([H:11])[H:12])=[O:8],19.013250000006963
MR_651196_0,[C:1]1([C:4]([H:12])([H:13])[H:14])([C:7]([C:5]([H:15])([H:16])[H:17])=[O:8])[C:2]([C:6]([H:18])([H:19])[H:20])([H:9])[C:3]1([H:10])[H:11]>>[C:1]1([C:4]([H:12])([H:13])[H:14])=[C:7]([C:5]([H:15])([H:16])[H:17])[O:8][C:2]([C:6]([H:18])([H:19])[H:20])([H:9])[C:3]1([H:10])[H:11],47.49171000001496
MR_667441_0,[C:1]([C:2]([C:3]([H:18])([H:19])[H:20])([O:8][H:9])[H:11])([N:4]([N:7]([H:16])[H:17])[H:10])([N:5]([H:12])[H:13])[N:6]([H:14])[H:15]>>[C:1]([C:2]([C:3]([H:18])([H:19])[H:20])([N:4]([N:7]([H:16])[H:17])[H:10])[H:11])([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[O:8][H:9],66.03621749999263
MR_423143_1,[C:1]1([C:3]([N:5]([C:4]([H:15])([H:16])[H:17])/[N:7]=[N:8]/[H:10])([H:13])[H:14])([H:9])[C:2]([H:11])([H:12])[O:6]1>>[C:1]1([C:3]([N:5]([C:4]([H:15])([H:16])[H:17])/[N:7]=[N:8]/[H:10])([H:13])[H:14])([H:9])[C:2]([H:11])([H:12])[O:6]1,66.93793499996318
MR_143556_1,[C:1]([C:3]([H:18])([H:20])[H:21])([C:4]([H:19])([H:22])[H:23])([N:5](/[C:6]([C:2]([H:15])([H:16])[H:17])=[N:9]\[N:8]([H:13])[H:14])[N:7]([H:11])[H:12])[H:10]>>[C:1]([C:3]([H:18])([H:20])[H:21])([C:4]([H:19])([H:22])[H:23])([N:9](/[C:6]([C:2]([H:15])([H:16])[H:17])=[N:5]/[N:7]([H:11])[H:12])[N:8]([H:13])[H:14])[H:10],63.08634000002115
MR_159961_1,[C:1]([N:6]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])(/[C:8]([C:5]([H:23])([H:24])[H:25])=[C:7](\[C:4]([H:20])([H:21])[H:22])[N:9]([H:10])[H:11])([H:12])[H:13]>>[C:1](=[C:8]([C:5]([H:23])([H:24])[H:25])[C:7]([C:4]([H:20])([H:21])[H:22])([N:6]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])[N:9]([H:10])[H:11])([H:12])[H:13],60.68677999998002
MR_362512_0,[C:1]([N:3](/[C:4]([N:5]([H:9])[H:10])=[N:8]/[H:11])/[N:6]=[N:7]/[C:2]([H:15])([H:16])[H:17])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[N:6]/[N:7]([C:2]([H:15])([H:16])[H:17])/[C:4]([N:5]([H:9])[H:10])=[N:8]/[H:11])([H:12])([H:13])[H:14],51.74176750002104
MR_168336_0,[C:1](/[C:4]([C:2]([H:12])([H:13])[H:14])=[C:5](\[C:3]([H:15])([H:16])[H:17])[H:11])([O:6][H:9])([O:7][H:8])[H:10]>>[C@:1]1([O:7][H:8])([H:10])[C@:4]([C:2]([H:12])([H:13])[H:14])([O:6][H:9])[C@@:5]1([C:3]([H:15])([H:16])[H:17])[H:11],72.40157750000847
MR_631895_1,[C:1]1([H:12])([H:13])[N:2]([H:11])[C:4]1([O:6][H:10])[O:8][C:3]([O:5][H:9])=[O:7]>>[C:1]([N:2]([C:3]([O:5][H:9])=[O:7])[H:11])([C:4]([O:6][H:10])=[O:8])([H:12])[H:13],36.88507750000653
MR_604506_1,[N:1](/[C:2]([N:4]([H:12])[H:13])=[N:7]/[N:3]([H:10])[H:11])([O:6][C:5](=[O:8])[H:14])[H:9]>>[N:1]1([H:9])[C:2]([N:4]([H:12])[H:13])([N:7]([N:3]([H:10])[H:11])[C:5](=[O:8])[H:14])[O:6]1,44.20611999996368
